US07442708B2
Ethyl [3-(3-methoxy-4-nitrobenzoyl)indolizin-1-yl]carboxylate
This compound is obtained according to the same method as the preceding example in Step B by 1,3-dipolar cycloaddition of 1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide (obtained in Step A of the preceding example) with ethyl acrylate. A yellow powder is obtained after purification by flash chromatography on a silica column, eluting with dichloromethane.

reactant | 1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium bromide | [Br-].COC=1C=C(C=CC1[N+](=O)[O-])C(C[N+]1=CC=CC=C1)=O
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | Ethyl [3-(3-methoxy-4-nitrobenzoyl)indolizin-1-yl]carboxylate | COC=1C=C(C(=O)C2=CC(=C3C=CC=CN23)C(=O)OCC)C=CC1[N+](=O)[O-] | C19H16N2O6
